US07442708B2
Methyl 5-({1-[(3-methoxybenzoyl)(methyl)amino]-2-methylindolizin-3-yl}carbonyl)-2-nitrobenzoate
This compound is prepared according to the protocol described in the example above by methylating 1.9 g (3.9 mmol) of methyl 5-({1-[(3-methoxybenzoyl)amino]-2-methylindolizin-3-yl}carbonyl)-2-nitrobenzoate with methyl iodide. 1.85 g of a red solid are obtained.

reactant | methyl 5-({1-[(3-methoxybenzoyl)amino]-2-methylindolizin-3-yl}carbonyl)-2-nitrobenzoate | 3.9 mmol, 1.9 g | COC=1C=C(C(=O)NC=2C(=C(N3C=CC=CC23)C(=O)C=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C)C=CC1 | C26H21N3O7
reactant | methyl iodide | CI | CH3I
product | Methyl 5-({1-[(3-methoxybenzoyl)(methyl)amino]-2-methylindolizin-3-yl}carbonyl)-2-nitrobenzoate | 1.85 g, Yield: 84% | COC=1C=C(C(=O)N(C=2C(=C(N3C=CC=CC23)C(=O)C=2C=CC(=C(C(=O)OC)C2)[N+](=O)[O-])C)C)C=CC1 | C27H23N3O7
